US07138425B2
c) 2-[4-Hexylamino-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(5-amino-2-hexylaminophenyl)-5-phenylbenzoxazole (237 mg, 0.61 mmol) and 1,2,4-benzenetricarboxylic anhydride (117 mg, 0.61 mmol) the title compound was obtained (129 mg, 38%). 1H NMR (DMSO) δ 8.46(m, 2H), 8.30(m, 1H), 8.08(m, 2H), 7.80(m, 4H), 7.49(m, 3H), 7.40(m, 1H), 7.02(m, 1H), 3.40(m, 2H), 1.75(m, 2H), 1.41(m, 6H), 0.91(m, 3H). MS 560 m/z (M+H)+.

reactant | 2-(5-amino-2-hexylaminophenyl)-5-phenylbenzoxazole | 0.61 mmol, 237 mg | NC=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)NCCCCCC | C25H27N3O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.61 mmol, 117 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Hexylamino-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(CCCCC)NC1=C(C=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C34H29N3O5
